US06794400B2
4-(3-Picolyl)-1-(pyridin-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of 4-(3-picolyl)-3-thiosemicarbazide (100 mg, 0.549 mmol), 2-pyridinecarboxaldehyde (52 μL, 0.549 mmol) and glacial acetic acid (62 μL) similar to Example 3 and isolated as a white solid (87 mg, 58%). 1H NMR (DMSO-d6): 11.76 (s, 1H), 9.18 (t, J=6.0 Hz, 1H), 8.45-8.43 (m, 2H), 8.33 (dd, J=1.7, 4.7 Hz, 1H), 8.15 (d, J=8.4 Hz, 1H), 8.0 (s, 1H), 7.72 (t, J=8.0 Hz, 1H), 7.64 (d, J=7.8 Hz, 1H), 7.28-7.22 (m, 2H), 4.74 (d, J=6.3 Hz, 2H).

reactant | 4-(3-picolyl)-3-thiosemicarbazide | 0.549 mmol, 100 mg | N1=CC(=CC=C1)CNC(NN)=S | C7H10N4S
reactant | 2-pyridinecarboxaldehyde | 0.549 mmol, 52 μL | N1=C(C=CC=C1)C=O | C6H5NO
solvent | acetic acid | 62 μL | C(C)(=O)O | C2H4O2
product | 4-(3-Picolyl)-1-(pyridin-2-ylmethylidene)thiosemicarbazide | N1=CC(=CC=C1)CNC(NN=CC1=NC=CC=C1)=S | C13H13N5S
